US04324796
58.2 g of 3-(5-chloro-2-methoxyphenyl)propan-1-ol and 50 ml of thionyl chloride are stirred at 50° for 8 hours; the excess thionyl chloride is distilled off in vacuo and the residue is distilled under a high vacuum. 50.9 g of 3-(5-chloro-2-methoxyphenyl)propyl chloride of b.p. 87° to 95° under 0.005 mm Hg are obtained.

reactant | 3-(5-chloro-2-methoxyphenyl)propan-1-ol | 58.2 g | ClC=1C=CC(=C(C1)CCCO)OC | C10H13ClO2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(5-chloro-2-methoxyphenyl)propyl chloride | 50.9 g | ClC=1C=CC(=C(C1)CCCCl)OC | C10H12Cl2O
